US05790627
Bathocuproine
Bathocuproinedisulfonic acid, disodium salt

reactant | Bathocuproinedisulfonic acid | CC1=NC2=C(C=CC3=C2N=C(C=C3C4=CC=C(C=C4)S(=O)(=O)O)C)C(=C1)C5=CC=C(C=C5)S(=O)(=O)O | C26H20N2O6S2
reactant | disodium | [Na][Na] | 2Na
product | Bathocuproine | CC=1C=C(C=2C=CC=3C(=CC(=NC3C2N1)C)C=4C=CC=CC4)C=5C=CC=CC5 | C26H20N2
